US08084614B2
To a stirring dichloromethane solution (40 mL) containing 5-bromo-2-(3-tert-butoxycarbonyl-propoxy)-4-chloro-benzoic acid (2.3 g, 5.9 mmol) and 2-(trimethylsilyl)-ethanol (1.8 g, 8.9 mmol), dicyclohexyl-carbodiimide (1.83 g, 8.9 mmol) and DMAP (108 mg, 0.9 mmol) were added. The mixture was stirred at rt for 16 hrs and was concentrated. The residue was purified via silica gel flash chromatography (eluting with 20% ethyl acetate in hexane) to afford 5-bromo-2-(3-tert-butoxycarbonyl-propoxy)-4-chloro-benzoic acid 2-trimethylsilanyl-ethyl ester (3.2 g). MS ion (APCI): 482.0, 441.0, 410.9. tR=3.61 min (method 1)

reactant | 5-bromo-2-(3-tert-butoxycarbonyl-propoxy)-4-chloro-benzoic acid | 5.9 mmol, 2.3 g | BrC=1C(=CC(=C(C(=O)O)C1)OCCCC(=O)OC(C)(C)C)Cl | C15H18BrClO5
reactant | 2-(trimethylsilyl)-ethanol | 8.9 mmol, 1.8 g | C[Si](CCO)(C)C | C5H14OSi
reactant | dicyclohexyl-carbodiimide | 8.9 mmol, 1.83 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
catalyst | DMAP | 0.9 mmol, 108 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
product | 5-bromo-2-(3-tert-butoxycarbonyl-propoxy)-4-chloro-benzoic acid 2-trimethylsilanyl-ethyl ester | 3.2 g | C[Si](CCOC(C1=C(C=C(C(=C1)Br)Cl)OCCCC(=O)OC(C)(C)C)=O)(C)C | C20H30BrClO5Si
